2189-04-23 07:41:00 Physician Resident Progress Note
24 Hour Events:
   - Lasix 20 mg IV x 2
   - echo LVH, nl EF, LVH, mod pulm artery systolic HTN, small pericardial
   effusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-4-22**] 04:44 PM
   Furosemide (Lasix) - [**2189-4-22**] 06:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-23**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 83 (75 - 99) bpm
   BP: 181/91(114) {135/71(85) - 181/104(119)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                    909 mL
                  PO:
                                                                    750 mL
                  TF:
   IVF:
                                                                    159 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                      0 mL
   Urine:
                                                                  3,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,741 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 756 (723 - 756) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 30%
   PIP: 23 cmH2O
   SpO2: 88%
   ABG: 7.23/107/58/41/12
   Ve: 4 L/min
   PaO2 / FiO2: 145
   Physical Examination
   General: Alert, oriented, auditory wheezing
   HEENT: + bilateral injection of lateral conjunctiva, MMM, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, + expiratory wheezes in the
   upper lung fields anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, obese, bowel sounds present, unable to
   assess for organomegaly given obese abdomen
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: AO x 3, CN II-XII grossly intact, 5/5 strength in all 4 ext
   Skin: no lesions
   Labs / Radiology
   161 K/uL
   17.1 g/dL
   105 mg/dL
   1.0 mg/dL
   41 mEq/L
   5.3 mEq/L
   17 mg/dL
   93 mEq/L
   142 mEq/L
   52.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2189-4-22**]  01:32 AM
                             [**2189-4-22**]  02:56 AM
                             [**2189-4-22**]  03:03 AM
                             [**2189-4-22**]  03:56 AM
                             [**2189-4-22**]  06:07 PM
                             [**2189-4-23**]  12:12 AM
                             [**2189-4-23**]  03:23 AM
   WBC
   14.1
   11.0
   Hct
   51.2
   52.2
   Plt
   177
   161
   Cr
   1.3
   1.1
   1.0
   TropT
   <0.01
   TCO2
   41
   42
   43
   47
   Glucose
   131
   167
   105
   Other labs: CK / CKMB / Troponin-T:108/5/<0.01, Lactic Acid:0.9 mmol/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
                                     pH
                                    7.23
                                    pCO2
                                     107
                                     pO2
                                     58
                                    HCO3
                                     47
                                   BaseXS
                                     12
    [**4-23**] 12AM
   Echo [**2189-4-22**]:  IMPRESSION: Suboptimal image quality. Symmetric left
   ventricular hypertrophy with preserved global and regional
   biventricular systolic function. Moderate pulmonary artery systolic
   hypertension. Right ventricular cavity enlargement with free wall
   hypokinesis. Dilated thoracic aorta.  These findings are c/w a primary
   pulmonary process (e.g., sleep apnea, COPD, chronic pulmonary embolism,
   etc.).
   Assessment and Plan: Mr. [**Known lastname 6036**] is a 53yo morbidly obese male with h/o
   ETOH abuse who presents with severe hypoxia and hypertension, likely
   due to a combination of obstructive and central sleep apnea with fluid
   overload.
   1)Hypoxia: Likely components of both central and obstructive sleep
   apnea.  Continues to have episodes of hypoxia during the night while
   sleeping, gases demonstrate respiratory acidosis during that time.  In
   addition, continues to be fluid overloaded.  Physical exam findings
   suggest some mild volume overload as well.  Diuresis along with sleep
   study and possible therapeutic trach may be necessary.
   - BiPAP
 consider trach placement
   - Cont. to check ABG
   - ECHO to assess systolic/diastolic function and pulmonary pressures
   - Continue nebs
   - Cont. diuresis, net negative 2.7 L overnight, will suggest goal of
   -1.5-2L
   - F/U ED BCx
   2)Hypertension: Pt. with BP in 180, likely contributing to apneic
   spells as echo demonstrates pulmonary hypertension.
   - Start hydrochlorothiazide, contine IV lasix diuresis
   - Cont. to monitor PM lytes
   3)Renal insufficiency: Cr at 1.3 on admission, now down to 1.0
   - Continue to monitor considering that pt. is being actively diuresed.
   4)ETOH abuse: Patient reports drinking 6 beers/day. No evidence of
   withdrawal at this time.
   - Consider CIWA scale if develops symptoms of withdrawal.
   ICU Care
   Nutrition:  Regular, Cardiac heart healthy diet
   Glycemic Control:  N/A
   Lines:  PIV
   20 Gauge - [**2189-4-21**] 10:32 PM
   18 Gauge - [**2189-4-21**] 10:33 PM
   Prophylaxis:
   DVT:  Heparin SQ
   Stress ulcer:  N/A
   VAP:   N/A
   Comments:
   Communication : with patient:
   Code status: Full code
   Disposition:  Pending above

2189-04-24 07:29:00 Physician Resident Progress Note
24 Hour Events:
   - negative 2.6L
   - Autoset CPAP on at night, no witnessed apneic spells similar to
   previous nights
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-4-24**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 92 (68 - 92) bpm
   BP: 120/89(96) {113/66(56) - 184/103(117)} mmHg
   RR: 24 (14 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,210 mL
                  PO:
                                                                  1,210 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                  1,550 mL
   Urine:
                                                                  2,380 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,170 mL
                                                                 -1,550 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: Standby
   Vt (Spontaneous): 390 (390 - 390) mL
   PS : 14 cmH2O
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 30%
   PIP: 0 cmH2O
   SpO2: 92%
   ABG: ///43/
   Ve: 11.1 L/min
   Physical Examination
   General: Alert, oriented, auditory wheezing
   HEENT: + bilateral injection of lateral conjunctiva, MMM, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, + expiratory wheezes in the
   upper lung fields anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, obese, bowel sounds present, unable to
   assess for organomegaly given obese abdomen
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: AO x 3, CN II-XII grossly intact, 5/5 strength in all 4 ext
   Skin: no lesions
   Labs / Radiology
   147 K/uL
   17.0 g/dL
   101 mg/dL
   0.9 mg/dL
   43 mEq/L
   3.3 mEq/L
   17 mg/dL
   89 mEq/L
   140 mEq/L
   50.9 %
   11.5 K/uL
        [image002.jpg]
                                     pH
                                    7.37
                                    pCO2
                                     79
                                     pO2
                                     89
                                    HCO3
                                     47
                                   BaseXS
                                     15
                             [**2189-4-22**]  01:32 AM
                             [**2189-4-22**]  02:56 AM
                             [**2189-4-22**]  03:03 AM
                             [**2189-4-22**]  03:56 AM
                             [**2189-4-22**]  06:07 PM
                             [**2189-4-23**]  12:12 AM
                             [**2189-4-23**]  03:23 AM
                             [**2189-4-23**]  09:14 AM
                             [**2189-4-23**]  04:42 PM
                             [**2189-4-24**]  02:47 AM
   WBC
   14.1
   11.0
   11.5
   Hct
   51.2
   52.2
   51.5
   50.9
   Plt
   177
   161
   147
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   TropT
   <0.01
   TCO2
   41
   42
   43
   47
   Glucose
   131
   167
   105
   92
   101
   Other labs: CK / CKMB / Troponin-T:108/5/<0.01, Lactic Acid:0.9 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   BCx ([**4-22**]):  PND
   Assessment and Plan: Mr. [**Known lastname 6036**] is a 53yo morbidly obese male with h/o
   ETOH abuse who presents with severe hypoxia and hypertension, likely
   due to an underlying pulmonary process and a combination of obstructive
   and central sleep apnea with fluid overload.
   1)Hypoxia: Likely components of both central and obstructive sleep
   apnea.  No episodes of hypoxia in the way seen on previous nights,
   blood gas reassuring.  Continues to be fluid overloaded.  Physical exam
   findings suggest some mild volume overload as well.  Cont. Diuresis and
   start on CPAP at night.
   - CPAP autoset
   - Cont. to check ABG
   - Continue combivent MDI
   - Cont. diuresis, net negative 2.6 L overnight, will suggest goal of
   -4L
   - F/U ED BCx
   2)Hypertension: Pt. with SBP currently in 120
   - Cont. hydrochlorothiazide, contine IV lasix diuresis
   - Cont. to monitor PM lytes
   3)Renal insufficiency: Cr at 1.3 on admission, now down to 0.9
   - Continue to monitor considering that pt. is being actively diuresed.
   4)ETOH abuse: Patient reports drinking 6 beers/day. No evidence of
   withdrawal at this time.
   - Consider CIWA scale if develops symptoms of withdrawal.
   ICU Care
   Nutrition:  Regular, Cardiac heart healthy diet
   Glycemic Control:  N/A
   Lines:  PIV
   20 Gauge - [**2189-4-21**] 10:32 PM
   18 Gauge - [**2189-4-21**] 10:33 PM
   Prophylaxis:
   DVT:  Heparin SQ
   Stress ulcer:  N/A
   VAP:   N/A
   Comments:
   Communication : with patient:
   Code status: Full code
   Disposition:  ICU

2189-04-25 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -4L after 60mg IV lasix
   - Did well on auto setting CPAP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-4-24**] 05:55 PM
   Furosemide (Lasix) - [**2189-4-24**] 05:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-25**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96.1
   HR: 83 (72 - 93) bpm
   BP: 172/86(105) {117/62(79) - 172/102(117)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                    720 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,675 mL
                                                                      0 mL
   Urine:
                                                                  4,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,955 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: MMV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 433 (433 - 560) mL
   RR (Set): 5
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 100%
   SpO2: 98%
   ABG:
   Ve: 6.2 L/min
   Physical Examination
   General: Alert, oriented, auditory wheezing
   HEENT: + bilateral injection of lateral conjunctiva, MMM, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, + expiratory wheezes in the
   upper lung fields anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, obese, bowel sounds present, unable to
   assess for organomegaly given obese abdomen
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: AO x 3, CN II-XII grossly intact, 5/5 strength in all 4 ext
   Skin: no lesions
   Labs / Radiology
   143 K/uL
   17.8 g/dL
   124 mg/dL
   1.0 mg/dL
   41 mEq/L
   4.2 mEq/L
   19 mg/dL
   89 mEq/L
   137 mEq/L
   54.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2189-4-22**]  03:03 AM
                             [**2189-4-22**]  03:56 AM
                             [**2189-4-22**]  06:07 PM
                             [**2189-4-23**]  12:12 AM
                             [**2189-4-23**]  03:23 AM
                             [**2189-4-23**]  09:14 AM
                             [**2189-4-23**]  04:42 PM
                             [**2189-4-24**]  02:47 AM
                             [**2189-4-24**]  05:17 PM
                             [**2189-4-25**]  04:50 AM
   WBC
   11.0
   11.5
   9.3
   Hct
   52.2
   51.5
   50.9
   54.4
   Plt
   161
   147
   143
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   1.0
   TCO2
   42
   43
   47
   Glucose
   167
   105
   92
   101
   105
   124
   Other labs: PT / PTT / INR:15.1/31.0/1.3, CK / CKMB /
   Troponin-T:108/5/<0.01, Lactic Acid:0.9 mmol/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6036**] is a 53yo morbidly obese male with h/o ETOH abuse who
   presents with severe hypoxia and hypertension, likely due to an
   underlying pulmonary process and a combination of obstructive and
   central sleep apnea with fluid overload.
   1)Hypoxia: Likely components of both central and obstructive sleep
   apnea.  No episodes of hypoxia in the way seen on previous nights,
   blood gas reassuring.  Continues to be fluid overloaded.  Physical exam
   findings suggest some mild volume overload as well.  Cont. Diuresis and
   start on CPAP at night.
   - CPAP autoset
   - Cont. to check ABG
   - Continue combivent MDI
   - Cont. diuresis, net negative 2.6 L overnight, will suggest goal of
   -4L
   - F/U ED BCx
   2)Hypertension: Pt. with SBP currently in 120
   - Cont. hydrochlorothiazide, contine IV lasix diuresis
   - Cont. to monitor PM lytes
   3)Renal insufficiency: Cr at 1.3 on admission, now down to 0.9
   - Continue to monitor considering that pt. is being actively diuresed.
   4)ETOH abuse: Patient reports drinking 6 beers/day. No evidence of
   withdrawal at this time.
   - Consider CIWA scale if develops symptoms of withdrawal.
   ICU Care
   Nutrition: Regular cardiac healthy diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-4-24**] 05:58 PM
   Prophylaxis:
   DVT:  Heparin SQ
   Stress ulcer:  N/A
   VAP:   N/A
   Comments:
   Communication : with patient:
   Code status: Full code
   Disposition:  ICU

2189-04-25 11:52:00 Physician Attending Progress Note
Chief Complaint: resp failure, OSA and central sleep apnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Last night- when on 16 PEEP was desatting to 70s - asymptomatic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-4-24**] 05:55 PM
   Heparin Sodium (Prophylaxis) - [**2189-4-25**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-25**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 75 (75 - 93) bpm
   BP: 147/86(100) {124/62(79) - 186/110(123)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                    720 mL
                                                                    520 mL
   PO:
                                                                    720 mL
                                                                    520 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,675 mL
                                                                    640 mL
   Urine:
                                                                  4,675 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,955 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 253 (253 - 560) mL
   PS : 12 cmH2O
   RR (Set): 5
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 92%
   ABG: ///41/
   Ve: 6.2 L/min
   Physical Examination
   Gen: obese male lying in bed NAD
   CV: RR
   Chest: diffuse exp wheezes
   Abd: obese soft
   Ext: +++edema
   Labs / Radiology
   17.8 g/dL
   143 K/uL
   124 mg/dL
   1.0 mg/dL
   41 mEq/L
   4.2 mEq/L
   19 mg/dL
   89 mEq/L
   137 mEq/L
   54.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2189-4-22**]  03:03 AM
                             [**2189-4-22**]  03:56 AM
                             [**2189-4-22**]  06:07 PM
                             [**2189-4-23**]  12:12 AM
                             [**2189-4-23**]  03:23 AM
                             [**2189-4-23**]  09:14 AM
                             [**2189-4-23**]  04:42 PM
                             [**2189-4-24**]  02:47 AM
                             [**2189-4-24**]  05:17 PM
                             [**2189-4-25**]  04:50 AM
   WBC
   11.0
   11.5
   9.3
   Hct
   52.2
   51.5
   50.9
   54.4
   Plt
   161
   147
   143
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   1.0
   TCO2
   42
   43
   47
   Glucose
   167
   105
   92
   101
   105
   124
   Other labs: PT / PTT / INR:15.1/31.0/1.3, CK / CKMB /
   Troponin-T:108/5/<0.01, Lactic Acid:0.9 mmol/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Remains challenging. Substantial O2 requirement. Major intervention we
   have to offer is further diuresis but I suspect he needs a higher PEEP
   level for effective mask ventilation.  Will increase lasix frequency
   and try to progressively increase PEEP.
   Try BIPAP 16/8
 with MMV
   Time spent 35 min
   Critically ill
   ICU Care
   Nutrition: reg diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-4-24**] 05:58 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2189-04-26 07:22:00 Physician Resident Progress Note
Chief Complaint: hypertension, hypoxia
   24 Hour Events:
   Pt placed on non-invasive ventilation at midnight.  Pt required AC mode
   to maintain ventilation, tolerated well.  Remained on vent x2 hrs, had
   a brief rest off- but  SaO2 dropped quickly.  Back on vent for 4 hrs.
   Oxygenation remained stable overnight, while on NIV, and pt slept
   -20 mg IV lasix x 2. -1.8L over last 24 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-4-25**] 01:16 PM
   Heparin Sodium (Prophylaxis) - [**2189-4-26**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-26**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 87 (75 - 93) bpm
   BP: 111/68(79) {94/62(73) - 186/110(123)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,020 mL
                  PO:
                                                                  1,020 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    800 mL
   Urine:
                                                                  2,960 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,940 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV
   Vt (Set): 300 (0 - 300) mL
   Vt (Spontaneous): 730 (253 - 730) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 33
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 90%
   ABG: ///45/
   Ve: 3.8 L/min
   Physical Examination
   General: Alert, oriented
   HEENT: MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, obese, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: AO x 3
   Skin: no lesions
   Labs / Radiology
   151 K/uL
   18.0 g/dL
   135 mg/dL
   1.0 mg/dL
   45 mEq/L
   4.2 mEq/L
   20 mg/dL
   89 mEq/L
   141 mEq/L
   54.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2189-4-22**]  06:07 PM
                             [**2189-4-23**]  12:12 AM
                             [**2189-4-23**]  03:23 AM
                             [**2189-4-23**]  09:14 AM
                             [**2189-4-23**]  04:42 PM
                             [**2189-4-24**]  02:47 AM
                             [**2189-4-24**]  05:17 PM
                             [**2189-4-25**]  04:50 AM
                             [**2189-4-25**]  05:30 PM
                             [**2189-4-26**]  04:08 AM
   WBC
   11.0
   11.5
   9.3
   9.6
   Hct
   52.2
   51.5
   50.9
   54.4
   54.6
   Plt
   161
   147
   143
   151
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   1.0
   1.0
   1.0
   TCO2
   47
   Glucose
   167
   105
   92
   101
   105
   124
   155
   135
   Other labs: PT / PTT / INR:15.1/31.0/1.3, CK / CKMB /
   Troponin-T:108/5/<0.01, Lactic Acid:0.9 mmol/L, Ca++:9.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6036**] is a 53yo morbidly obese male with h/o ETOH abuse who
   presents with severe hypoxia and hypertension, likely due to an
   underlying pulmonary process and a combination of obstructive and
   central sleep apnea with fluid overload.
   1)Hypoxia: Likely components of both central and obstructive sleep
   apnea.  Has episodes of apnea and  hypoxia overnight.  Continues to be
   fluid overloaded.  Net 1.8 L negative over past 24 hours.
   - CPAP o/n
   - Continue combivent MDI
   - Continue aggressive diuresis with goal 1-2 L net negative
   - F/U ED BCx
   2)Hypertension: secondary to sleep apnea. Will treat daytime
   hypertension, but hypertension while asleep can be corrected by
   treating underlying sleep apnea.
   -D/c HCTZ and lisinopril given that with diuresis, and
   antihypertensives, SBPs drop to 80s-90s.
   - continue IV lasix diuresis
   - Cont. to monitor PM lytes
   3)Renal insufficiency: Cr at 1.3 on admission, now 1.0.
   - Continue to follow
   4)ETOH abuse: Patient reports drinking 6 beers/day. No evidence of
   withdrawal at this time.
   - Consider CIWA scale if develops symptoms of withdrawal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-4-24**] 05:58 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-04-26 10:51:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Neg 2 L
   Did BIPAP 16/8 with good effect but at one point RT  used an actual AC
   mode for persistent apnea
   Overall though worse NIPPV for almost 5-6 hours last evening and feel
   better this AM
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2189-4-26**] 12:00 AM
 NON-INVASIVE VENTILATION - STOP [**2189-4-26**] 02:30 AM
 NON-INVASIVE VENTILATION - START [**2189-4-26**] 03:30 AM
 NON-INVASIVE VENTILATION - STOP [**2189-4-26**] 06:12 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-4-25**] 01:16 PM
   Heparin Sodium (Prophylaxis) - [**2189-4-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-26**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 99 (79 - 99) bpm
   BP: 90/65(71) {90/59(53) - 159/89(102)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,020 mL
                                                                    720 mL
   PO:
                                                                  1,020 mL
                                                                    720 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    800 mL
   Urine:
                                                                  2,960 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,940 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 730 (418 - 730) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 33
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 92%
   ABG: ///45/
   Ve: 3.8 L/min
   Physical Examination
   Gne opbese man sitting up in bed NAD many guests
   CV rr
   Chest fair air movement
   Abd obese soft
   Ext decreased edema
   Neurologic: conversant
   Labs / Radiology
   18.0 g/dL
   151 K/uL
   135 mg/dL
   1.0 mg/dL
   45 mEq/L
   4.2 mEq/L
   20 mg/dL
   89 mEq/L
   141 mEq/L
   54.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2189-4-22**]  06:07 PM
                             [**2189-4-23**]  12:12 AM
                             [**2189-4-23**]  03:23 AM
                             [**2189-4-23**]  09:14 AM
                             [**2189-4-23**]  04:42 PM
                             [**2189-4-24**]  02:47 AM
                             [**2189-4-24**]  05:17 PM
                             [**2189-4-25**]  04:50 AM
                             [**2189-4-25**]  05:30 PM
                             [**2189-4-26**]  04:08 AM
   WBC
   11.0
   11.5
   9.3
   9.6
   Hct
   52.2
   51.5
   50.9
   54.4
   54.6
   Plt
   161
   147
   143
   151
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   1.0
   1.0
   1.0
   TCO2
   47
   Glucose
   167
   105
   92
   101
   105
   124
   155
   135
   Other labs: PT / PTT / INR:15.1/31.0/1.3, CK / CKMB /
   Troponin-T:108/5/<0.01, Lactic Acid:0.9 mmol/L, Ca++:9.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Overall did better with mask vent last PM and feel much better this AM
   BIPAP settings  Try BIPAP 16/8 with respironics as a transition to
   floor home rehab goal
   BP better d/c acei and hctz
   Goal another 1 lietr negative- as BP allows
   Time spent 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-4-26**] 08:34 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU

2189-04-27 07:23:00 Physician Resident Progress Note
24 Hour Events:
   -held off on lasix given SBPs in 90s during day
   -PM lytes: Cr 1.0-->1.4, K 5.4
   - midnight, BP 110s/60s. Gave 20mg IV lasix x1
   -intermittently desatting into 70s overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-4-26**] 10:27 PM
   Furosemide (Lasix) - [**2189-4-27**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-27**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 79 (79 - 99) bpm
   BP: 150/59(82) {90/55(53) - 150/73(88)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,770 mL
                  PO:
                                                                  1,770 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    650 mL
   Urine:
                                                                  1,500 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    270 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///44/
   Physical Examination
   General: Alert, oriented
   HEENT: MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, obese, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: AO x 3
   Skin: no lesions
   Labs / Radiology
   139 K/uL
   17.7 g/dL
   135 mg/dL
   1.5 mg/dL
   44 mEq/L
   4.1 mEq/L
   31 mg/dL
   87 mEq/L
   139 mEq/L
   51.9 %
   9.1 K/uL
         [image002.jpg]
                             [**2189-4-23**]  03:23 AM
                             [**2189-4-23**]  09:14 AM
                             [**2189-4-23**]  04:42 PM
                             [**2189-4-24**]  02:47 AM
                             [**2189-4-24**]  05:17 PM
                             [**2189-4-25**]  04:50 AM
                             [**2189-4-25**]  05:30 PM
                             [**2189-4-26**]  04:08 AM
                             [**2189-4-26**]  04:48 PM
                             [**2189-4-27**]  04:14 AM
   WBC
   11.0
   11.5
   9.3
   9.6
   9.1
   Hct
   52.2
   51.5
   50.9
   54.4
   54.6
   51.9
   Plt
   161
   147
   143
   151
   139
   Cr
   1.0
   1.0
   0.9
   0.9
   1.0
   1.0
   1.0
   1.4
   1.5
   Glucose
   105
   92
   101
   105
   124
   155
   135
   98
   135
   Other labs: PT / PTT / INR:15.1/31.0/1.3, CK / CKMB /
   Troponin-T:108/5/<0.01, Lactic Acid:0.9 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6036**] is a 53yo morbidly obese male with h/o ETOH abuse who
   presents with severe hypoxia and hypertension, likely due to an
   underlying pulmonary process and a combination of obstructive and
   central sleep apnea with fluid overload.
   1)Hypoxia: Likely components of both central and obstructive sleep
   apnea with underlying pulmonary process.  Has episodes of apnea and
   hypoxia overnight.  Continues to be fluid overloaded.  LOS negative
   12.6 L.  Creatinine bump to 1.5 with diuresis.  Only negative 300cc
   overnight.
   - CPAP o/n
   - Continue combivent MDI
   - UA/Urine Lytes
   - Hold lasix
   - F/U Sleep Consult
   2)Hypertension: secondary to sleep apnea. Will treat daytime
   hypertension, but hypertension while asleep can be corrected by
   treating underlying sleep apnea.
   -Cont. to hold HCTZ and lisinopril given that with diuresis, and
   antihypertensives, SBPs drop to 80s-90s, currently in the 150
s but
   ranging to 90
s overnight.
   3)Renal insufficiency: Cr at 1.3 on admission, now up to 1.5 with
   diuresis.
   - Hold all diuresis and ACE-I, avoid any other nephrotoxic agents
   4)ETOH abuse: Patient reports drinking 6 beers/day. No evidence of
   withdrawal at this time.
   - Consider CIWA scale if develops symptoms of withdrawal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-4-26**] 08:34 AM
   Prophylaxis:
   DVT:  +HSC
   Stress ulcer:
   VAP:
   Comments:  bisacodyl, senna, docusate
   Communication:  Comments:
   Code status: Full code
   Disposition: Consider call out to floor with detailed sign-out about
   apneic episodes

2189-04-28 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt. UOP 900cc in afternoon, net negative 1.2L at 9pm, no lasix given
   today
   - Sleep consult scheduled patient for [**Hospital1 **] [**Location (un) 3**] study this Wednesday
   night ([**4-29**] night), needs to get there then, case management emailed,
   possibly may need to go to rehab prior to then
   - On Bipap and NC o.n
   - Urine lytes suggest indeterminate etiology between prerenal and
   intrinsic renal disease, FeNa 1.27%, FeUrea 42%.
   - Given 40meq KCl for hypochloremia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-28**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 77 (76 - 94) bpm
   BP: 154/74(93) {106/67(40) - 183/100(121)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,080 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                  1,550 mL
   Urine:
                                                                  2,775 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,695 mL
                                                                 -1,550 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 91%
   ABG: ///42/
   Physical Examination
   General: Alert, oriented
   HEENT: MMM
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, obese, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: AO x 3
   Skin: no lesions
   Labs / Radiology
   141 K/uL
   17.5 g/dL
   116 mg/dL
   1.0 mg/dL
   42 mEq/L
   4.2 mEq/L
   23 mg/dL
   89 mEq/L
   138 mEq/L
   53.5 %
   10.2 K/uL
        [image002.jpg]
                             [**2189-4-23**]  09:14 AM
                             [**2189-4-23**]  04:42 PM
                             [**2189-4-24**]  02:47 AM
                             [**2189-4-24**]  05:17 PM
                             [**2189-4-25**]  04:50 AM
                             [**2189-4-25**]  05:30 PM
                             [**2189-4-26**]  04:08 AM
                             [**2189-4-26**]  04:48 PM
                             [**2189-4-27**]  04:14 AM
                             [**2189-4-28**]  03:31 AM
   WBC
   11.5
   9.3
   9.6
   9.1
   10.2
   Hct
   51.5
   50.9
   54.4
   54.6
   51.9
   53.5
   Plt
   147
   143
   151
   139
   141
   Cr
   1.0
   0.9
   0.9
   1.0
   1.0
   1.0
   1.4
   1.5
   1.0
   Glucose
   92
   101
   105
   124
   155
   135
   98
   135
   116
   Other labs: PT / PTT / INR:15.2/29.4/1.3, CK / CKMB /
   Troponin-T:108/5/<0.01, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6036**] is a 53yo morbidly obese male with h/o ETOH abuse who
   presents with severe hypoxia and hypertension, likely due to an
   underlying pulmonary process and a combination of obstructive and
   central sleep apnea with fluid overload.
   1)Hypoxia: Likely components of both central and obstructive sleep
   apnea with underlying pulmonary process.  Has episodes of apnea and
   hypoxia overnight.  Continues to be fluid overloaded.  LOS negative
   12.6 L.  Now autodiuresing 1.7 L negative over last 24 hours, 1.5 since
   midnight.  Scheduled for sleep study on Wednesday at [**Hospital1 **] [**Location (un) 3**].
   - CPAP o/n
   - Continue combivent MDI
   - Hold lasix
   - F/U Sleep Consult
   2)Hypertension: secondary to sleep apnea. Will treat daytime
   hypertension, but hypertension while asleep can be corrected by
   treating underlying sleep apnea.
   -Cont. to hold HCTZ and lisinopril given that with diuresis, and
   antihypertensives, SBPs drop to 80s-90s, currently in the 150
s but
   ranging to 90
s overnight.
   3)Renal insufficiency: Cr peaked at 1.5 with diuresis, FeUrea 42%. Now
   resolved, Cr 1.0.
   - Hold all diuresis and ACE-I, avoid any other nephrotoxic agents
   4)ETOH abuse: Patient reports drinking 6 beers/day. No evidence of
   withdrawal at this time.
   - Consider CIWA scale if develops symptoms of withdrawal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-4-26**] 08:34 AM
   Prophylaxis:
   DVT:  +HSC
   Stress ulcer:
   VAP:
   Comments:  bisacodyl, senna, docusate
   Communication:  Comments:
   Code status: Full code
   Disposition: Consider call out to floor with detailed sign-out about
   apneic episodes